US06048852
a) 2-Fluorophenylglycine methyl ester hydrochloride (Method A)
Acetyl chloride (4 ml) was added cautiously and dropwise to methanol (20 ml) at 0° C. over 2 minutes. When the addition was completed, the 2-fluorophenylglycine (1 g, 5.9 mmol, Aldrich) was introduced in a single portion. The mixture was stirred until dissolved then allowed to stand at RT for 24 hours. The solvent was evaporated then coevaporated twice from toluene to afford the title compound as a white crystalline solid in quantitative yield.

reactant | Acetyl chloride | 4 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2-fluorophenylglycine | 5.9 mmol, 1 g | FC1=C(C=CC=C1)NCC(=O)O | C8H8FNO2
solvent | methanol | 20 ml | CO | CH4O
product | 2-Fluorophenylglycine methyl ester hydrochloride | quantitative yield | Cl.COC(CNC1=C(C=CC=C1)F)=O | InChI=1S/C9H10FNO2.ClH/c1-13-9(12)6-11-8-5-3-2-4-7(8)10;/h2-5,11H,6H2,1H3;1H
